US08865712B2
k) (2R,5R)-5-(6-Bromo-3-fluoro-pyridin-2-yl)-2,5-dimethyl-2-trifluoromethyl-5,6-dihydro-2H-[1,4]oxazin-3-ylamine
A solution of N—[(R)-1-(6-bromo-3-fluoro-pyridin-2-yl)-2-((R)-1-cyano-2,2,2-trifluoro-1-methyl-ethoxy)-1-methyl-ethyl]-4-nitro-benzenesulfonamide (9.18 g, 16.53 mmol) and N-acetylcysteine (5.40 g, 33.10 mmol) in 92 ml ethanol was evacuated and flushed with nitrogen. K2CO3 (4.57 g, 33.1 mmol) was added and the mixture was stirred at 80° C. for 3 days. The reaction mixture was concentrated in vacuo to about ¼ of the original volume and partitioned between water and TBME. The organic layer was washed with 10% aq. K2CO3 solution, dried over Na2SO4, filtered and evaporated to give a yellow oil. Column chromatography on silica (hexanes/14-50% (EtOAc:MeOH 95:5)) gave 4.55 g of the title compound as an off-white solid.

reactant | N—[(R)-1-(6-bromo-3-fluoro-pyridin-2-yl)-2-((R)-1-cyano-2,2,2-trifluoro-1-methyl-ethoxy)-1-methyl-ethyl]-4-nitro-benzenesulfonamide | 16.53 mmol, 9.18 g | BrC1=CC=C(C(=N1)[C@@](CO[C@](C(F)(F)F)(C)C#N)(C)NS(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-])F | C18H15BrF4N4O5S
reactant | N-acetylcysteine | 33.10 mmol, 5.40 g | C(C)(=O)N[C@@H](CS)C(=O)O | C5H9NO3S
reactant | K2CO3 | 33.1 mmol, 4.57 g | C(=O)([O-])[O-].[K+].[K+]
solvent | ethanol | 92 ml | C(C)O | C2H6O
product | (2R,5R)-5-(6-Bromo-3-fluoro-pyridin-2-yl)-2,5-dimethyl-2-trifluoromethyl-5,6-dihydro-2H-[1,4]oxazin-3-ylamine | 4.55 g | BrC1=CC=C(C(=N1)[C@]1(N=C([C@@](OC1)(C(F)(F)F)C)N)C)F | C12H12BrF4N3O
